data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4139,4740,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[C-:11]([N+:12]#[C:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[C:20]([CH3:21])=[O:22]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)=[N:12][C:11]1([C:9]([O:8][CH3:7])=[O:10])[C:20]([CH3:21])=[O:22],water,298.15,21.84054372007304,-17.564353440276214
3814,4366,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C:18]#[N+:19][O-:20]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[O:20][N:19]=[C:18]2[C:16]([CH3:15])=[O:17],water,298.15,19.651722616697565,-16.119286064833947
1271,1390,[CH3:16][C:17](=[O:18])[C:19]#[N+:20][CH-:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[N:1]#[C:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:19]([C:17]([CH3:16])=[O:18])=[N:20][CH:21]2[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,11.306402783301364,-34.15450060484464
1974,2190,[CH3:11][O:12][C:13](=[O:14])[C-:15]([CH3:16])[O+:17]=[C:18]([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[N:1]#[C:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]12[C:4]([Br:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:18]([C:19]([CH3:20])=[O:21])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[O:17][C:15]2([C:13]([O:12][CH3:11])=[O:14])[CH3:16],water,298.15,9.477390941257507,-48.92549179997928
3785,4335,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH:11]#[N+:12][C-:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:13]([C:14]#[N:15])([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[N:12]=[CH:11]2,water,298.15,12.290708744722204,-39.26090813279971
4637,5289,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]([CH3:16])=[O+:17][C-:18]([C:19]([CH3:20])=[O:21])[C:22]([CH3:23])=[O:24]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([CH3:16])[O:17][C:18]2([C:19]([CH3:20])=[O:21])[C:22]([CH3:23])=[O:24],water,298.15,9.87854268616749,-27.803828416106853
1081,1178,[CH3:18][CH-:19][NH+:20]=[C:21]([CH3:22])[CH3:23].[CH3:1][CH:2]1[C:3]#[C:4][C:5]([C:6]([F:7])([F:8])[F:9])([C:10]([F:11])([F:12])[F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][CH:2]1[C:3]2=[C:4]([C:5]([C:6]([F:7])([F:8])[F:9])([C:10]([F:11])([F:12])[F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[CH:19]([CH3:18])[NH:20][C:21]2([CH3:22])[CH3:23],water,298.15,12.150330184873896,-55.49147875940371
1880,2084,[CH3:15][NH:16][C:17](=[O:18])[CH-:19][NH+:20]=[C:21]([C:22](=[O:23])[O:24][CH3:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:21]([C:22](=[O:23])[O:24][CH3:25])([C:26](=[O:27])[O:28][CH3:29])[NH:20][CH:19]2[C:17]([NH:16][CH3:15])=[O:18],water,298.15,9.809530596930164,-15.970906953879371
423,461,[CH3:1][O:2][C:3]([C:4]#[N:5])=[C:6]([O:7][CH3:8])[O:9][CH3:10].[N:11]#[C:12][N-:13][O+:14]=[CH:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][O:2][C:3]1([C:4]#[N:5])[C:6]([O:7][CH3:8])([O:9][CH3:10])[CH:15]([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[O:14][N:13]1[C:12]#[N:11],water,298.15,23.02005576818364,-15.879706082431303
2233,2475,[CH3:17][NH:18][C:19](=[O:20])[c:21]1[o:22][c:23](=[O:24])[c-:25]([C:26]#[N:27])[n+:28]1[CH3:29].[CH3:1][O:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]#[C:9][C:10]([Cl:11])([Cl:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]2=[C:9]([C:10]([Cl:11])([Cl:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:21]1([C:19]([NH:18][CH3:17])=[O:20])[O:22][C:23](=[O:24])[C:25]2([C:26]#[N:27])[N:28]1[CH3:29],water,298.15,22.991927056023048,-5.3345315660069526
4465,5097,[CH3:6][C:7]([c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)=[N+:14]([CH3:15])[C-:16]([C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:7]([CH3:6])([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[N:14]([CH3:15])[C:16]1([C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,60.62023533091221,39.29483565818253
3731,4267,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([CH3:18])[C:19]#[N:20]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])=[N:16][C:17]2([CH3:18])[C:19]#[N:20],water,298.15,19.4366881070698,-37.54308235990592
